US08202866B2
(E)-2-{4-[2-(2-tert-Butoxycarbonylamino-phenylcarbamoyl)-vinyl]-phenyl}-3-(1-methyl-piperidin-4-yl)-propionic acid methyl ester
A mixture of 2-(4-bromo-phenyl)-3-(1-methyl-piperidin-4-yl)-propionic acid methyl ester (2.27 g, 6.67 mmol), (2-acryloylamino-phenyl)-carbamic acid tert-butyl ester (2 g, 7.2 mmol), Pd2(dba)3 (160 mg, 0.175 mmol), tri-o-tolylphosphine (160 mg, 0.526 mmol) and triethylamine (1.6 g, 15.8 mmol) in DMF (12 mL) was stirred at 100 degrees Celsius under N2 for 4 hours. After cooling to room temperature, the mixture was poured into a saturated aqueous solution of NH4Cl, and extracted with ethyl acetate (80 mL). The organic layer was washed with brine, dried over Na2SO4, filtered, concentrated in vacuo, and purified by flash column chromatography to obtain a pale yellow solid (1.74 g, 50%). MS: calc'd 522 (MH+), exp 522 (MH+).

reactant | 2-(4-bromo-phenyl)-3-(1-methyl-piperidin-4-yl)-propionic acid methyl ester | 6.67 mmol, 2.27 g | COC(C(CC1CCN(CC1)C)C1=CC=C(C=C1)Br)=O | C16H22BrNO2
reactant | (2-acryloylamino-phenyl)-carbamic acid tert-butyl ester | 7.2 mmol, 2 g | C(C)(C)(C)OC(NC1=C(C=CC=C1)NC(C=C)=O)=O | C14H18N2O3
reactant | tri-o-tolylphosphine | 0.526 mmol, 160 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 15.8 mmol, 1.6 g | C(C)N(CC)CC | C6H15N
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
catalyst | Pd2(dba)3 | 0.175 mmol, 160 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (E)-2-{4-[2-(2-tert-Butoxycarbonylamino-phenylcarbamoyl)-vinyl]-phenyl}-3-(1-methyl-piperidin-4-yl)-propionic acid methyl ester | 1.74 g, 50% | COC(C(CC1CCN(CC1)C)C1=CC=C(C=C1)\C=C\C(NC1=C(C=CC=C1)NC(=O)OC(C)(C)C)=O)=O | C30H39N3O5
